US04468402
480 Milligrams of 6-[4-(2-phenoxyethyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril and 70 ml of 50%-sodium hydride in oil were mixed into 5 ml of dimethylformamide and stirred at a room temperature for 1 hour. Then to this mixture was added a solution of 0.17 ml of benzyl chloride with 3 ml of dimethylformamide was added dropwise slowly and stirred at a room temperature for 4 hours. The reaction mixture was poured in a voluminous amount of water and the organic matters were extracted with chloroform, and the chloroform layer was washed with water, dried and chloroform was removed by distillation. The residue obtained was converted into hydrochloride by adding a concentrated hydrochloric acid and recrystallized from methanol-water to obtain 150 mg of 1-benzyl-6-[4-(2-phenoxyethyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril monohydrochloride. Colorless powdery crystals. Melting point: 261°-264° C.

reactant | 6-[4-(2-phenoxyethyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril | O(C1=CC=CC=C1)CCN1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C22H25N3O3
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl chloride | 0.17 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | hydrochloride | Cl | ClH
solvent | water | O | H2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-6-[4-(2-phenoxyethyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril monohydrochloride | 150 mg | Cl.C(C1=CC=CC=C1)N1C(=O)CCC2=CC(=CC=C12)C(=O)N1CCN(CC1)CCOC1=CC=CC=C1 | InChI=1S/C29H31N3O3.ClH/c33-28-14-12-24-21-25(11-13-27(24)32(28)22-23-7-3-1-4-8-23)29(34)31-17-15-30(16-18-31)19-20-35-26-9-5-2-6-10-26;/h1-11,13,21H,12,14-20,22H2;1H
